US07098337B2
(4R,9aR)-6-(4-Chloro-1-(RS)-hydroxy-1-methyl-butyl)-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester
A solution of 0.30 g (0.81 mmol) (4R,9aR)-6-bromo-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester in 20 ml diethyl ether was cooled to −100 deg C. and treated dropwise with 65 μl (0.97 mmol) tert-butyllithium (1.5 M solution in n-pentane). After 15 min, 0.12 g (0.11 ml, 0.98 mmol) 5-chloro-2-pentanone was added, the temperature was allowed to rise to −75 deg C. and after an additional 15 min, the reaction was quenched with 10%. aqueous ammonium chloride solution and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and filtered. The solvent was removed on a rotary evaporator and the residue was chromatographed on silica gel (0.032–0.063 mm) with ethyl acetate:n-hexane (1:2) as eluant to afford the compound as a colorless oil (50.9%).

reactant | (4R,9aR)-6-bromo-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 0.81 mmol, 0.30 g | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC=C(N=C3N2[C@@H](C1)C)Br | C16H22BrN3O2
reactant | tert-butyllithium | 0.97 mmol, 1.5 M, 65 μl | C(C)(C)(C)[Li]
reactant | 5-chloro-2-pentanone | 0.98 mmol, 0.11 ml, 0.12 g | ClCCCC(C)=O | C5H9ClO
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | (4R,9aR)-6-(4-Chloro-1-(RS)-hydroxy-1-methyl-butyl)-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 50.9% | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC=C(N=C3N2[C@@H](C1)C)C(CCCCl)(C)O | C21H32ClN3O3
